US07812028B2
a) 5-Bromo-3-(2-chloro-phenyl)-pyrazin-2-ylamine
Tetrakis(triphenylphosphine)palladium (0.24 g) is added at room temperature to a solution of 2-amino-3,5-dibromopyrazine (0.51 g) in dimethoxyethane (12 mL). The mixture is stirred for 30 min and sodium carbonate (0.53 g), water (6 mL) and 2-chlorophenylboronic acid (0.32 g) are added and the mixture is stirred for 18 h at 100° C. The mixture is cooled, citric acid (10%, 20 mL) is added and the mixture is extracted with ethyl acetate (3×50 mL). Organic phases were pooled, washed with sodium bicarbonate and brine, dried with Na2SO4 and the solvent was evaporated. The residue was purified by chromatography on silica gel with dichloromethane to yield 0.31 g of the title compound as a white solid, mp 138.5-139.5° C.

reactant | 2-amino-3,5-dibromopyrazine | 0.51 g | NC1=NC=C(N=C1Br)Br | C4H3Br2N3
reactant | sodium carbonate | 0.53 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-chlorophenylboronic acid | 0.32 g | ClC1=C(C=CC=C1)B(O)O | C6H6BClO2
reactant | citric acid | 20 mL | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | dimethoxyethane | 12 mL | C(OC)COC | C4H10O2
catalyst | Tetrakis(triphenylphosphine)palladium | 0.24 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 6 mL | O | H2O
product | 5-Bromo-3-(2-chloro-phenyl)-pyrazin-2-ylamine | 0.31 g | BrC=1N=C(C(=NC1)N)C1=C(C=CC=C1)Cl | C10H7BrClN3
